US04435403
A suspension of 1.5 g of 4-methoxymethyl-beta-carboline-3-carboxylic-acid-ethylester, 20 ml of acetonitrile, 3.1 g of sodium iodide and 2.7 ml of trimethylchlorosilane is stirred at 60° C. for 2 h. After cooling, it is poured into ice water and extracted with ethyl acetate. The extracts are washed with saturated sodium thiosulfate solution, dried and concentrated. 1.65 g of 4-iodo-methyl-beta-carboline-3-carboxylic-acid-methylester with a m.p. of 280°-286° C. is obtained.

reactant | 4-methoxymethyl-beta-carboline-3-carboxylic-acid-ethylester | 1.5 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC=C3C2C1COC | C16H16N2O3
reactant | sodium iodide | 3.1 g | [I-].[Na+]
reactant | trimethylchlorosilane | 2.7 ml | C[Si](Cl)(C)C | C3H9ClSi
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4-iodo-methyl-beta-carboline-3-carboxylic-acid-methylester | 1.65 g | COC(=O)C=1N=C(C=2NC3=CC=CC=C3C2C1I)C | C14H11IN2O2
